US05631356
N-octadecanoyl phytosphingosine
The above-described solution is added as quickly as possible to a suspension of 6.2 kg (13.9 moles) of phytosphingosine sulphate (purity of 82%) in 20 l methylene chloride and 2.8 l (20 moles) triethyl amine.

reactant | phytosphingosine sulphate | 13.9 moles, 6.2 kg | S(=O)(=O)(O)O.OC[C@H](N)[C@H](O)[C@H](O)CCCCCCCCCCCCCC
reactant | triethyl amine | 20 moles, 2.8 l | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 l | C(Cl)Cl | CH2Cl2
product | N-octadecanoyl phytosphingosine | C(CCCCCCCCCCCCCCCCC)(=O)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC | C36H73NO4
